US07148229B2
1,3-Dimethyl-1H-pyrazole-4-sulfonic acid [4-(1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl)-phenyl]-amide
5-Chloro-1,3-dimethyl-1H-pyrazole-4-sulfonic acid {4-[1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-amide (0.082 mmol) was dissolved in methanol (70 mL) and dichloromethane (10 mL) and the reaction vessel flushed with argon before adding 10% palladium on carbon (100 mg). The reaction vessel was charged with hydrogen gas at 50 psi pressure and shaken for 24 hrs. Additional 10% palladium on carbon (50 mg) was added and hydrogenolysis continued at 50 psi pressure of hydrogen gas for an additional 24 hrs. At this time no starting material remained. The reaction mixture was filtered through celite and concentrated in vacuo. The crude product was purified by chromatography using silica eluted with 10% v/v methanol in chloroform to give after concentration in vacuo 1,3-dimethyl-1H-pyrazole-4-sulfonic acid [4-(1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl)-phenyl]-amide as a colorless solid (38%); EI-HRMS m/e calculated for C19H21N7O4S (M+) 443.1376, found 443.1364.

reactant | 5-Chloro-1,3-dimethyl-1H-pyrazole-4-sulfonic acid {4-[1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-amide | 0.082 mmol | CN1C(N(C=2N=C(NC2C1=O)CC1=CC=C(C=C1)NS(=O)(=O)C=1C(=NN(C1Cl)C)C)C)=O | C19H20ClN7O4S
solvent | methanol | 70 mL | CO | CH4O
product | 1,3-Dimethyl-1H-pyrazole-4-sulfonic acid [4-(1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl)-phenyl]-amide | CN1C(N(C=2N=C(NC2C1=O)CC1=CC=C(C=C1)NS(=O)(=O)C=1C(=NN(C1)C)C)C)=O | C19H21N7O4S
